* Circuit file for simulation
*** Includes – Model file + your spice file(s)

.INCLUDE "$ADK/technology/ic/models/tsmc018.mod"
.INCLUDE "$ENTER_DIR_HERE/sobelLayout.pex.netlist"

*** Options
.OPTION NOASCII
.OPTION MODWL
.OPTION ENGNOT
.OPTION AEX
.OPTION LIMPROBE=10000
.OPTION DOTNODE

*** Instantiation of your circuit (top level from spice file)
X_PARASITIC O_VALID O_DIR[1] O_MODE[1] O_MODE[0] I_CLOCK O_DIR[0]
+ I_VALID O_EDGE I_PIXEL[0] I_RESET I_PIXEL[1] I_PIXEL[2] I_PIXEL[3] I_PIXEL[5]
+ I_PIXEL[7] I_PIXEL[6] O_DIR[2] I_PIXEL[4] VDD GND SOBELLAYOUT

*** Forces
VFORCE_VDD VDD 0 dc 1.62
VFORCE_I_CLOCK I_CLOCK 0 pulse(0 1.62 0n 0.1n 0.1n 10n 20n)

*** Create busses
.SETBUS I_PIXEL I_PIXEL[7] I_PIXEL[6] I_PIXEL[5] I_PIXEL[4] I_PIXEL[3] I_PIXEL[2] I_PIXEL[1] I_PIXEL[0]
.SETBUS O_DIR O_DIR[2] O_DIR[1] O_DIR[0]
.SETBUS O_MODE O_MODE[1] O_MODE[0]
.SETBUS RESET_PIX I_RESET I_PIXEL

*** Set bus values
.SIGBUS I_PIXEL VHI = 1.62 VLO = 0 TRISE=0.1n TFALL=0.1n BASE=HEXA 
+ 20n 0 40n FF 60n FF 80n 0 100n 0 120n FF 140n 0 160n 0 180n 0 

.SIGBUS RESET_PIX VHI = 1.62 VLO = 0 TRISE=0.1n TFALL=0.1n BASE=HEXA 
+ 0n 2
+ 20n 1
+ 30n 0
+ 40n 1
+ 50n 0
+ 60n 1
+ 70n 0
+ 80n 1
+ 90n 0
+ 100n 1
+ 110n 0
+ 120n 1
+ 130n 0
+ 140n 1
+ 150n 0
+ 160n 1
+ 170n 0
+ 180n 1
+ 190n 0

*** Adding a load capacitor
C_LOAD O_VALID 0 120f
C_LOAD1 O_MODE[1] 0 120f
C_LOAD2 0_MODE[0] 0 120f
C_LOAD3 0_DIR[2] 0 120f
C_LOAD4 0_DIR[1] 0 120f
C_LOAD5 0_DIR[0] 0 120f

*** Connect GND and 0V
.CONNECT GND 0

*** Specifying the simulation parameters for a transient analysis
.TRAN 0.1 1us 0

*** Setting the temperature
.TEMP 125

*** Plotting some voltages
.PLOT TRAN V(I_CLOCK) V(O_EDGE) V(O_VALID) 

*** Plotting busses
.PLOTBUS I_PIXEL
.PLOTBUS O_DIR
.PLOTBUS O_MODE
.PLOTBUS RESET_PIX

.measure tran static_sample AVG power from=221ns to=227ns
.measure tran dynamic MAX power from=0ns to=600ns
